US08349824B2
A suspension of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid with 1 eq. lithium chloride (80 mg, 0.198 mmol), bis(2-methoxyethyl)amine (87 ul, 0.59 mmole), diisopropylethylamine (104 ul, 0.59 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 291 ul, 0.494 mmol) in tetrahydrofurane (4 ml) is stirred for 2.5 hours at 70° C. giving after 20 min a light yellow solution. The cooled solution is diluted with ethyl acetate, washed once with sat. aqueous sodium carbonate solution, once with 1N aqueous hydrochloric acid, once with brine, dried with magnesium sulfate and the solvent is evaporated to dryness affording N4,N4-bis(2-methoxyethyl)-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (80 mg, 84.8%) as a colorless waxy solid. MS: m/z=478.2 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | lithium chloride | 0.198 mmol, 80 mg, 1 eq. | [Cl-].[Li+]
reactant | bis(2-methoxyethyl)amine | 0.59 mmole, 87 ul | COCCNCCOC | C6H15NO2
reactant | diisopropylethylamine | 0.59 mmol, 104 ul | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 0.494 mmol, 291 ul | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N4,N4-bis(2-methoxyethyl)-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 80 mg, 84.8% | COCCN(C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C)CCOC | C24H27N7O4
